US05403512
4-[4-(4-Propylcyclohexyl)cyclohexyl]-1-(1,2,2-trifluorovinyl)benzene
A mixture of 5.0 g (77 mmol) of zinc powder, 50 ml of THF and 13.5 g (65 mmol) of trifluoroiodoethylene is stirred overnight, initially with ice cooling, later at room temperature. 20.5 g (50 mmol) of 1-iodo-4-[4-(4-propylcyclohexyl)cyclohexyl]benzene and 1.1 g-of tetrakis(triphenylphosphine)palladium are then added.

reactant | trifluoroiodoethylene | 65 mmol, 13.5 g | FC(=C(I)F)F | C2F3I
reactant | 1-iodo-4-[4-(4-propylcyclohexyl)cyclohexyl]benzene | 50 mmol, 20.5 g | IC1=CC=C(C=C1)C1CCC(CC1)C1CCC(CC1)CCC | C21H31I
catalyst | zinc | 77 mmol, 5.0 g | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[4-(4-Propylcyclohexyl)cyclohexyl]-1-(1,2,2-trifluorovinyl)benzene | C(CC)C1CCC(CC1)C1CCC(CC1)C1=CC=C(C=C1)C(=C(F)F)F | C23H31F3
